US07838498B2
Preparation of 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propanoic acid (Intermediate BK)
A solution of NaOEt (freshly prepared from 0.84 g Na and 10 mL of ethanol) was added to diethyl malonate (5.53 mL, 0.036 mol) in 10 mL of ethanol. After stirring for 1 h at room temperature, the resulting solution was added to a suspension of 1-bromo-2-(bromomethyl)-4-chloro-5-(4-ethoxybenzyl)benzene (BJ) (2.8 g, 0.0067 mol) in 10 mL of ethanol and heated to 80° C. overnight. The ethanol was removed by distillation. The remaining solution was cooled to 0° C., diluted with water, and acidified to pH 2 with conc. HCl. The aqueous solution was extracted with ethyl acetate, and the organic layer was washed with water and brine, dried over Na2SO4, concentrated, and the residue was taken up in 40 mL of ethanol and 50 mL of aqueous NaOH solution. The mixture was heated to reflux for 4 h, and then the ethanol was removed by distillation. The solution was cooled to 0° C., acidified with 50 mL of conc. HCl and then heated to reflux overnight. The solution was basified to pH 12 and extracted with ethyl acetate. The aqueous solution was acidified to pH 2 and the precipitate collected. The filter cake was washed with water and dried under vacuum to obtain 1.07 g of intermediate BK.

reactant | NaOEt | CC[O-].[Na+]
reactant | diethyl malonate | 0.036 mol, 5.53 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-bromo-2-(bromomethyl)-4-chloro-5-(4-ethoxybenzyl)benzene | 0.0067 mol, 2.8 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CBr | C16H15Br2ClO
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propanoic acid | 1.07 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCC(=O)O | C18H18BrClO3
